US04029816
A freshly-prepared solution of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride (5 g., 15 millimole) in water (100 ml.) is stirred at room temperature and basicified to pH ca.8 by addition of 15N ammonium hydroxide (excess) providing a fine slurry which is stirred at room temperature for 10 minutes and filtered. The collected solid is washed with water and dried in vacuo at 80° C. over phosphorous pentoxide for 2 hours to provide 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol as a colorless solid (4.2 g.), m.p. 146°-146.5° C. (dec.).

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride | 15 millimole, 5 g | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)I)O
solvent | water | 100 ml | O | H2O
product | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
